US08207164B2
c) 5-Bromo-pyridine-2-carboxylic acid [3-((R)-5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide
A solution of 117 mg (0.231 mmol) ((R)-5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester in 2 ml 4N HCl in dioxane was stirred at 45° C. overnight. The mixture was concentrated and crystallized from EtOAc/hexane to yield the title compound as colorless crystals.

reactant | ((R)-5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.231 mmol, 117 mg | C(C)(C)(C)OC(NC=1COC[C@@](N1)(CF)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)=O | C22H24BrFN4O4
solvent | HCl | 4N, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-pyridine-2-carboxylic acid [3-((R)-5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide | NC1=N[C@](COC1)(CF)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)Br | C17H16BrFN4O2
